US06153613
In 2 ml of ethyl acetate was dissolved 0.45 g of ethyl 3-[4-[3-(4-tert-butoxycarbonylamidinophenoxy)-propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)-propionate, followed by adding thereto 4 ml of a 2.4N solution of hydrochloric acid in dioxane, and the resulting mixture was stirred at room temperature for 12 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the resulting residue was purified by a reversed phase column chromatography (eluent: a 15% aqueous acetonitrile solution) to obtain 0.20 g of ethyl 3-[4-[3-(4-amidinophenoxy)propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionate hydrochloride as a white solid.

reactant | ethyl 3-[4-[3-(4-tert-butoxycarbonylamidinophenoxy)-propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)-propionate | 0.45 g | C(C)(C)(C)OC(=O)NC(=N)C1=CC=C(OCCCN2C(C(N(CC2)C(CC(=O)OCC)C=2C=NC=CC2)=O)=O)C=C1 | C29H37N5O7
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | ethyl 3-[4-[3-(4-amidinophenoxy)propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionate hydrochloride | 0.20 g | Cl.C(N)(=N)C1=CC=C(OCCCN2C(C(N(CC2)C(CC(=O)OCC)C=2C=NC=CC2)=O)=O)C=C1 | InChI=1S/C24H29N5O5.ClH/c1-2-33-21(30)15-20(18-5-3-10-27-16-18)29-13-12-28(23(31)24(29)32)11-4-14-34-19-8-6-17(7-9-19)22(25)26;/h3,5-10,16,20H,2,4,11-15H2,1H3,(H3,25,26);1H
